US05576324
2-Bromomethyl-8-ethyl-2,5-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one
Using 3-ethyl-6-(2-methyl-2-propenyl)-5-hydroxy-8-methylcarbostyril (710 mg, 2.76 mmol) and N-bromosuccinimide (516 mg, 2.90 mmol), the procedure of Example 227 was followed (reaction, post-treatment, and recrystallization from chloroform-n-hexane) to obtain 920 mg of the title compound as pale yellow crystals (99.2%).

reactant | 3-ethyl-6-(2-methyl-2-propenyl)-5-hydroxy-8-methylcarbostyril | 2.76 mmol, 710 mg | C(C)C=1C(NC2=C(C=C(C(=C2C1)O)CC(=C)C)C)=O | C16H19NO2
reactant | N-bromosuccinimide | 2.90 mmol, 516 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform n-hexane | C(Cl)(Cl)Cl.CCCCCC
product | 2-Bromomethyl-8-ethyl-2,5-dimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 920 mg, 99.2% | BrCC1(CC=2C(=C3C=C(C(NC3=C(C2)C)=O)CC)O1)C | C16H18BrNO2
